US04146721
80 grams 1-phenyl-3-(p-chlorophenyl)-pyrazol-4-aldehyde were dissolved in a mixture of 800 milliliters ethanol and 1200 milliliters dimethylformamide. To the solution thus obtained, 5.5 grams 95% sodium borohydride were added in small portions at 20°-25° C. The mixture was then stirred for one hour at room temperature. Thereafter, the reaction mixture was evaporated and the residue was taken up, with rubbing, with ethanol and water were thereafter added. The precipitate formed thereby was separated, dispersed and stirred in warm water, the precipitate was filtered off by suction, dried and recrystallized from benzene. 75 grams 4-hydroxymethyl-1-phenyl-3-(p-chlorophenyl)-pyrazol, melting at 141°-142° C., were obtained, representing a yield of 93%.

reactant | 1-phenyl-3-(p-chlorophenyl)-pyrazol-4-aldehyde | 80 grams | C1(=CC=CC=C1)N1N=C(C(=C1)C=O)C1=CC=C(C=C1)Cl | C16H11ClN2O
reactant | sodium borohydride | 5.5 grams | [BH4-].[Na+]
solvent | ethanol | 800 milliliters | C(C)O | C2H6O
solvent | dimethylformamide | 1200 milliliters | CN(C=O)C | C3H7NO
product | 4-hydroxymethyl-1-phenyl-3-(p-chlorophenyl)-pyrazol | 75 grams, yield of 93% | OCC=1C(=NN(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C16H13ClN2O
